US05558971
To a suspension of 1,2,3-benzenetriol (1.01 g, 8.01 mmole) and γ-collidine (4.14 g, 32.3 mmole) in methylene chloride (60 ml), trifluoromethanesulfonic anhydride (8.13 g, 28.8 mmole) was added dropwise at -3°-0° C. and stirring was continued for 6 hours at the same temperature. After reaction, H2O (50 ml) and toluene (50 ml) were added to the mixture with stirring and standed. The organic layer was separated, washed with 5% sodium hydroxide aqueous solution (50 ml) then H2O (50 ml), dried over anhydrous Mg SO4 and evaporated. The residue was chromatographed on silica gel (Wakogel C-200, manufactured by Wako pure Chemical Industries, Ltd.) with n-hexane/ethyl acetate [1/20 (v/v)] as eluent to give 1.82 g of 1,2,3-tris(trifluoromethanesulfonyloxy)benzene as white crystals. m.p. 47.5°-48.5° C.

reactant | 1,2,3-benzenetriol | 8.01 mmole, 1.01 g | C1(=C(C(=CC=C1)O)O)O | C6H6O3
reactant | γ-collidine | 32.3 mmole, 4.14 g | CC1=CC(=NC(=C1)C)C | C8H11N
reactant | trifluoromethanesulfonic anhydride | 28.8 mmole, 8.13 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | H2O | 50 ml | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3-tris(trifluoromethanesulfonyloxy)benzene | 1.82 g | FC(S(=O)(=O)OC1=C(C(=CC=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)(F)F | C9H3F9O9S3
